US04011230
As in Example 17, reaction of 2-(2-nitrovinyl)thiophene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave α-(nitromethyl)-2-thenyl dimethyldithiocarbamate melting at 88° C.-90° C. when recrystallized without heating from acetone-ethanol solution.

reactant | 2-(2-nitrovinyl)thiophene | [N+](=O)([O-])C=CC=1SC=CC1 | C6H5NO2S
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | α-(nitromethyl)-2-thenyl dimethyldithiocarbamate | CN(C(SC(C1=CC=CS1)C[N+](=O)[O-])=S)C | C9H12N2O2S3
